US07544835B2
Dimethyl 2-[4-methoxy-3-({[(4-methoxyanilino)-carbonyl]oxy}methyl)benzyl]malonate
Using dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate and 4-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C14H18O6
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | Dimethyl 2-[4-methoxy-3-({[(4-methoxyanilino)-carbonyl]oxy}methyl)benzyl]malonate | COC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)COC(=O)NC1=CC=C(C=C1)OC | C22H25NO8
